// Generated for: spectre
// Generated on: May 27 19:46:18 2026
// Design library name: sebastian_thesis_pilot
// Design cell name: synapsedualinputtb
// Design view name: schematic
simulator lang=spectre
include "ade_e.scs"
global 0
parameters m2w=3u m2l=200n m3w=2.1u m3l=4u m4w=2.1u m4l=1.05u m5w=2.1u m5l=1.05u m4wtb=2.1u m4ltb=1.05u m2wtb=2.1u m2ltb=1.05u pw=100u T=1m Vin=0 vmax=1.8 Vw=0.5 Vthr=0.9 Vtau=1.6 capacitance=6p pwlFile_st2="/home/s5117909/Documents/thesis/thesis_codebase/experiments/frequency_sweep/input_data/spike_train_output/st_2/2001_hz/trial_1.pwl" pwlFile_st1="/home/s5117909/Documents/thesis/thesis_codebase/experiments/frequency_sweep/input_data/spike_train_output/st_1/1001_hz/trial_1.pwl"

include "/projects/bics/designkits/xfab/xp018/cadence/v8_0/spectre/v8_0_1/lp5mos/config.scs" section=default
include "/projects/bics/designkits/xfab/xp018/cadence/v8_0/spectre/v8_0_1/lp5mos/param.scs" section=3s
include "/projects/bics/designkits/xfab/xp018/cadence/v8_0/spectre/v8_0_1/lp5mos/bip.scs" section=tm
include "/projects/bics/designkits/xfab/xp018/cadence/v8_0/spectre/v8_0_1/lp5mos/cap.scs" section=tm
include "/projects/bics/designkits/xfab/xp018/cadence/v8_0/spectre/v8_0_1/lp5mos/dio.scs" section=tm
include "/projects/bics/designkits/xfab/xp018/cadence/v8_0/spectre/v8_0_1/lp5mos/mos.scs" section=tm
include "/projects/bics/designkits/xfab/xp018/cadence/v8_0/spectre/v8_0_1/lp5mos/res.scs" section=tm

// Library name: sebastian_thesis_pilot
// Cell name: dynapse1
// View name: schematic
subckt dynapse1 Iout Vdd Vin Vtau Vthr
    M2 (Vdd Vthr Vin 0) ne w=m2w/1 l=m2l as=4.8e-07*(m2w/1) \
        ad=4.8e-07*(m2w/1) ps=1*2*(4.8e-07+(m2w/1)) pd=2*(4.8e-07+(m2w/1)) \
        nrs=2.7e-07/(m2w/1) nrd=2.7e-07/(m2w/1) m=(1)*(1) par1=(1)*(1) \
        xf_subext=0
    M3 (net1 net1 Vin 0) ne w=m3w/1 l=m3l as=4.8e-07*(m3w/1) \
        ad=4.8e-07*(m3w/1) ps=1*2*(4.8e-07+(m3w/1)) pd=2*(4.8e-07+(m3w/1)) \
        nrs=2.7e-07/(m3w/1) nrd=2.7e-07/(m3w/1) m=(1)*(1) par1=(1)*(1) \
        xf_subext=0
    M4 (net1 Vtau Vdd 0) pe w=m4w/1 l=m4l as=4.8e-07*(m4w/1) \
        ad=4.8e-07*(m4w/1) ps=1*2*(4.8e-07+(m4w/1)) pd=2*(4.8e-07+(m4w/1)) \
        nrs=2.7e-07/(m4w/1) nrd=2.7e-07/(m4w/1) m=(1)*(1) par1=(1)*(1)
    M5 (Iout net1 Vdd 0) pe w=m5w/1 l=m5l as=4.8e-07*(m5w/1) \
        ad=4.8e-07*(m5w/1) ps=1*2*(4.8e-07+(m5w/1)) pd=2*(4.8e-07+(m5w/1)) \
        nrs=2.7e-07/(m5w/1) nrd=2.7e-07/(m5w/1) m=(1)*(1) par1=(1)*(1)
    C0 (Vdd net1) cmm4 area=5.833e-10 perimeter=98.33u m=1 par1=1
ends dynapse1
// End of subcircuit definition.

// Library name: sebastian_thesis_pilot
// Cell name: synapsedualinputtb
// View name: schematic
M4 (Vin Vw net1 0) ne w=m4wtb/1 l=m4ltb as=4.8e-07*(m4wtb/1) \
        ad=4.8e-07*(m4wtb/1) ps=1*2*(4.8e-07+(m4wtb/1)) \
        pd=2*(4.8e-07+(m4wtb/1)) nrs=2.7e-07/(m4wtb/1) \
        nrd=2.7e-07/(m4wtb/1) m=(1)*(1) par1=(1)*(1) xf_subext=0
M2 (net1 vpre 0 0) ne w=m2wtb/1 l=m2ltb as=4.8e-07*(m2wtb/1) \
        ad=4.8e-07*(m2wtb/1) ps=1*2*(4.8e-07+(m2wtb/1)) \
        pd=2*(4.8e-07+(m2wtb/1)) nrs=2.7e-07/(m2wtb/1) \
        nrd=2.7e-07/(m2wtb/1) m=(1)*(1) par1=(1)*(1) xf_subext=0
V4 (Vw 0) vsource dc=Vw type=dc
V3 (Vthr 0) vsource dc=Vthr type=dc
V2 (Vtau 0) vsource dc=Vtau type=dc
V1 (Vdd 0) vsource dc=1.8 type=dc
V14 (vpre1 0) vsource type=pwl file=pwlFile_st2
V5 (vpre vpre1) vsource type=pwl file=pwlFile_st1
I56 (0 Vdd Vin Vtau Vthr) dynapse1
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../../../../../Documents/thesis/thesis_codebase/thesis_database/20260527_194336_2channel_1syn_plain/netlist_template/raw/psf/sens.output" \
    checklimitdest=psf 
tran tran stop=0.5s write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save vpre vpre1 
saveOptions options save=allpub
